US06063806
N-(5-ethoxycarbonylmethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide (1.0 g) was dissolved in xylene (75 ml), and 10% Pd-C (250 mg) was added, which was followed by refluxing for 1 hr. Pd-C was filtered off and xylene was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: benzene-CHCl3) to give 0.9 g of N-(5-ethoxycarbonylmethyl-4,6-dimethylindol-7-yl)-2,2-dimethylpropanamide.

reactant | N-(5-ethoxycarbonylmethyl-4,6-dimethylindolin-7-yl)-2,2-dimethylpropanamide | 1.0 g | C(C)OC(=O)CC=1C(=C2CCNC2=C(C1C)NC(C(C)(C)C)=O)C | C19H28N2O3
solvent | xylene | 75 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd-C | 250 mg | [Pd] | Pd
product | N-(5-ethoxycarbonylmethyl-4,6-dimethylindol-7-yl)-2,2-dimethylpropanamide | 0.9 g | C(C)OC(=O)CC=1C(=C2C=CNC2=C(C1C)NC(C(C)(C)C)=O)C | C19H26N2O3
